US06321652B1
Also, decanethiol (C10H21SH) was used as a self-assembling compound. Namely, 80 mM of decanethiol were dissolved in 20 ml of n-hexane, whereby a 4-mM decanethiol/n-hexane solution was obtained.

reactant | decanethiol | C(CCCCCCCCC)S | C10H22S
reactant | decanethiol | 80 mM | C(CCCCCCCCC)S | C10H22S
solvent | n-hexane | 20 ml | CCCCCC | C6H14
product | decanethiol n-hexane | 4-mM | C(CCCCCCCCC)S.CCCCCC | InChI=1S/C10H22S.C6H14/c1-2-3-4-5-6-7-8-9-10-11;1-3-5-6-4-2/h11H,2-10H2,1H3;3-6H2,1-2H3
